US07253286B2
N-(2-Fluoro-4-[(6-cyano-7-[(2R)-(oxiran-2-yl)methoxy]-4-quinolyl)oxy]phenyl)-N′-cyclopropylurea
Cyclopropylamine (0.04 ml) was added to dimethylsulfoxide (3 ml), and then [2-fluoro-4-([6-cyano-7-([(2R)-oxiran-2-yl]methoxy)-4-quinolyl]oxy)phenyl]carbamic acid phenyl ester (212 mg) was dissolved therein and the solution was stirred for 10 minutes. Water and ethyl acetate were added to the reaction solution, and the precipitated crystals were filtered out to obtain the title compound (150 mg).

reactant | Cyclopropylamine | 0.04 ml | C1(CC1)N | C3H7N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | [2-fluoro-4-([6-cyano-7-([(2R)-oxiran-2-yl]methoxy)-4-quinolyl]oxy)phenyl]carbamic acid phenyl ester | 212 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OC[C@@H]1OC1)F)=O | C26H18FN3O5
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Fluoro-4-[(6-cyano-7-[(2R)-(oxiran-2-yl)methoxy]-4-quinolyl)oxy]phenyl)-N′-cyclopropylurea | 150 mg | FC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OC[C@@H]1OC1)NC(=O)NC1CC1 | C23H19FN4O4
